US06310095B1
To a mixture of [4-(N-tert-butoxycarbonyl-(R)-thiazolidin-4-ylcarbonyl)amino-2-phenylbenzoyl]methionine methyl ester (270 mg, 0.47 mmol) and thiophenol (0.1 mL, 0.97 mmol) was added 4N HCl-dioxane (10 mL) and the reaction mixture was stirred for 45 minutes at ambient temperature. The reaction mixture was partitioned between water and ether. The aqueous phase was extracted with ether. The organic extracts were discarded and the aqueous phase was lyophilized to give [4-((R)-thiazolidin-4-ylcarbonyl)amino-2-phenylbenzoyl]methionine methyl ester hydrochloride (150 mg).

reactant | [4-(N-tert-butoxycarbonyl-(R)-thiazolidin-4-ylcarbonyl)amino-2-phenylbenzoyl]methionine methyl ester | 0.47 mmol, 270 mg | COC([C@@H](NC(C1=C(C=C(C=C1)NC(=O)[C@H]1N(CSC1)C(=O)OC(C)(C)C)C1=CC=CC=C1)=O)CCSC)=O | C28H35N3O6S2
reactant | thiophenol | 0.97 mmol, 0.1 mL | C1(=CC=CC=C1)S | C6H6S
reactant | HCl dioxane | 4N, 10 mL | Cl.O1CCOCC1
product | [4-((R)-thiazolidin-4-ylcarbonyl)amino-2-phenylbenzoyl]methionine methyl ester hydrochloride | 150 mg | Cl.COC([C@@H](NC(C1=C(C=C(C=C1)NC(=O)[C@H]1NCSC1)C1=CC=CC=C1)=O)CCSC)=O | InChI=1S/C23H27N3O4S2.ClH/c1-30-23(29)19(10-11-31-2)26-21(27)17-9-8-16(25-22(28)20-13-32-14-24-20)12-18(17)15-6-4-3-5-7-15;/h3-9,12,19-20,24H,10-11,13-14H2,1-2H3,(H,25,28)(H,26,27);1H/t19-,20-;/m0./s1
